US07919519B2
4-(2-Benzylbenzofuran-5-yl)-3-fluorobenzaldehyde (step 3 in Scheme A-6)
A solution of 2-fluoro-4-formylphenylboronic acid (58 mg, 0.348 mmol), 2-benzyl-5-bromobenzofuran (50 mg, 0.174 mmol), tetrakis(triphenylphosphine) palladium(0) (20 mg, 0.0174 mmol) and sodium carbonate (106 mg, 1.0 mmol) in 1,4-dioxane (4 mL) and water (1 mL) was heated at 100° C. for 12 h. The mixture was partitioned between brine (20 mL) and EtOAc (20 mL). The organic layer was dried. Removal of solvents gave the residue which was purified by silica gel column chromatography (ISCO system, 30% dichloromethane in hexanes) to give the product as a off white solid: 1H NMR (400 MHz, CDCl3) δ 10.0 (s, 1H), 7.61-7.75 (m, 5H), 7.27-7.51 (m, 7H), 6.45 (s, 1H), 4.14 (s, 2H).

reactant | 2-fluoro-4-formylphenylboronic acid | 0.348 mmol, 58 mg | FC1=C(C=CC(=C1)C=O)B(O)O | C7H6BFO3
reactant | 2-benzyl-5-bromobenzofuran | 0.174 mmol, 50 mg | C(C1=CC=CC=C1)C=1OC2=C(C1)C=C(C=C2)Br | C15H11BrO
reactant | sodium carbonate | 1.0 mmol, 106 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.0174 mmol, 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(2-Benzylbenzofuran-5-yl)-3-fluorobenzaldehyde | C(C1=CC=CC=C1)C=1OC2=C(C1)C=C(C=C2)C2=C(C=C(C=O)C=C2)F | C22H15FO2
